### PR TITLE
feat: taylor expansion of `1 / z ^ r`

### PR DESCRIPTION
**Pull request by erdOne**
---

This might exist somewhere else but I couldn't find them.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecificLimits/InvPow.lean [hunk 1]
```diff
@@ -0,0 +1,79 @@
...
+Authors: Andrew Yang
+-/
+import Mathlib.Analysis.Complex.TaylorSeries
+
+/-!
+# Taylor expansion of `1 / z ^ r`
+-/
+
+lemma deriv_div_sub_pow {𝕜 : Type*} [NontriviallyNormedField 𝕜] (z w a : 𝕜) (r : ℕ) :
+    deriv (fun z : 𝕜 ↦ a / (w - z) ^ r) z = r * a / (w - z) ^ (r + 1) := by
```
Comment (eric-wieser) [inline Mathlib/Analysis/SpecificLimits/InvPow.lean:13]: I think it would be a good idea to state this with `HasDerivAt` so that you can get `Differentiable` for free as well.

File: Mathlib/Analysis/SpecificLimits/InvPow.lean [hunk 2]
```diff
@@ -0,0 +1,79 @@
...
+  apply funext_iff.mp
+  induction k with
+  | zero => simp
+  | succ k IH =>
+    ext z
+    simp only [Function.iterate_succ', Function.comp_apply, IH, deriv_div_sub_pow,
+      Nat.ascFactorial_succ, ← add_assoc, mul_assoc, Nat.cast_mul]
+
+/-- Taylor expansion of `1 / z ^ k` at `w`. -/
+lemma Complex.tsum_eq_one_div_sub_pow (w z : ℂ) (hz : z.abs < w.abs) (k : ℕ) (hk : k ≠ 0) :
```
Comment (eric-wieser) [inline Mathlib/Analysis/SpecificLimits/InvPow.lean:32]: Similarly, a `HasSum` version of this lemma seems useful.

File: Mathlib/Analysis/SpecificLimits/InvPow.lean [hunk 3]
```diff
@@ -0,0 +1,95 @@
...
+  simp only [div_eq_mul_inv, deriv_const_mul_field', ← zpow_natCast, ← zpow_neg, deriv_zpow]
+  rw [sub_eq_add_neg (-r : ℤ), ← neg_add, zpow_neg, mul_comm _ a]
+  norm_cast
+  field_simp
+
+lemma hasDerivAt_div_sub_pow {𝕜 : Type*} [NontriviallyNormedField 𝕜]
+    (z w a : 𝕜) (r : ℕ) (hz : z ≠ w) :
+    HasDerivAt (fun z : 𝕜 ↦ a / (w - z) ^ r) (r * a / (w - z) ^ (r + 1)) z := by
+  rw [← deriv_div_sub_pow, hasDerivAt_deriv_iff]
+  refine .div (by fun_prop) (by fun_prop) (by simp [eq_comm, sub_eq_zero, hz])
```
Comment (eric-wieser) [inline Mathlib/Analysis/SpecificLimits/InvPow.lean:24]: I would expect this to be easier to prove in the other order.

Comment (erdOne) [reply Mathlib/Analysis/SpecificLimits/InvPow.lean:24]: This is the proof that I came up with for the second one without using the first. Am I missing some API?
```
lemma hasDerivAt_div_sub_pow {𝕜 : Type*} [NontriviallyNormedField 𝕜]
    (z w a : 𝕜) (r : ℕ) (hz : z ≠ w) :
    HasDerivAt (fun z : 𝕜 ↦ a / (w - z) ^ r) (r * a / (w - z) ^ (r + 1)) z := by
  convert_to HasDerivAt (fun z : 𝕜 ↦ a * (w - z) ^ (-r : ℤ))
    (a * ((-r : ℤ) * (w - z) ^ (-r - 1 : ℤ) * (-1))) z
  · ext; simp; ring
  · rw [sub_eq_add_neg (-r : ℤ), ← neg_add, zpow_neg, div_eq_mul_inv, mul_comm _ a,
      mul_neg_one, ← neg_mul, ← mul_assoc, Int.cast_neg, neg_neg]
    norm_cast
  refine .const_mul _ ?_
  refine .comp (h := (w - ·)) _ (hasDerivAt_zpow _ _ (.inl ?_)) (.const_sub _ (hasDerivAt_id' z))
  simpa [sub_eq_zero] using hz.symm
```

File: Mathlib/Analysis/SpecificLimits/InvPow.lean [hunk 4]
```diff
@@ -0,0 +1,95 @@
...
+  apply funext_iff.mp
+  induction k with
+  | zero => simp
+  | succ k IH =>
+    ext z
+    simp only [Function.iterate_succ', Function.comp_apply, IH, deriv_div_sub_pow,
+      Nat.ascFactorial_succ, ← add_assoc, mul_assoc, Nat.cast_mul]
+
+/-- Taylor expansion of `1 / z ^ k` at `w`. -/
+lemma Complex.tsum_eq_one_div_sub_pow (w z : ℂ) (hz : z.abs < w.abs) (k : ℕ) (hk : k ≠ 0) :
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecificLimits/InvPow.lean:38]:
```suggestion
lemma Complex.tsum_eq_one_div_sub_pow (w z : ℂ) (hz : ‖z‖ < ‖w‖) (k : ℕ) (hk : k ≠ 0) :
```
and elsewhere. See also #21821

File: Mathlib/Analysis/SpecificLimits/InvPow.lean (hunk 3 above)
Comment (j-loreaux) [reply Mathlib/Analysis/SpecificLimits/InvPow.lean:24]: Eric's point is that, once you prove this, you can use [HasDerivAt.deriv](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Calculus/Deriv/Basic.html#HasDerivAt.deriv) to go the other way for free.

I didn't spend the time to check whether it's easy to shorten your proof. The end looks like something that `fun_prop` should be capable of doing, but it seems we haven't made it play with `HasDerivAt`, only `HasFDerivAt`. Probably it's more work to go to `HasFDerivAt` just to build the continuous linear map.

Comment (eric-wieser) [reply Mathlib/Analysis/SpecificLimits/InvPow.lean:24]: That proof looks good enought to me; I suppose you could try to make it a bit tidier by defining a `HasDerivAt.const_div`

Comment (erdOne) [reply Mathlib/Analysis/SpecificLimits/InvPow.lean:24]: > Eric's point is that, once you prove this, you can use `HasDerivAt.deriv` to go the other way for free.

Yes, I understand. And my counterpoint is that 2 is much hard to prove without 1 and 2 is pretty much for free from 1 so in total I don't think it is true that "it is easier to prove in the other order".

Unless I can try to make `HasDerivAt.const_div` work...

Comment (erdOne) [reply Mathlib/Analysis/SpecificLimits/InvPow.lean:24]: No. `HasDerivAt.const_div` doesn't help as well, this is the best I can do:
```
lemma HasDerivAt.const_div {𝕜 : Type*} [NontriviallyNormedField 𝕜] {x : 𝕜}
    {d : 𝕜 → 𝕜} {d' : 𝕜} (c : 𝕜) (hd : HasDerivAt d d' x)
    (hd' : d x ≠ 0) : HasDerivAt (c / d ·) (- c * d' / (d x) ^ 2) x := by
  simp_rw [div_eq_mul_inv c, neg_mul, ← mul_neg, mul_div_assoc]
  exact .const_mul _ (.inv hd hd')

lemma hasDerivAt_div_sub_pow {𝕜 : Type*} [NontriviallyNormedField 𝕜]
    (z w a : 𝕜) (r : ℕ) (hz : z ≠ w) :
    HasDerivAt (fun z : 𝕜 ↦ a / (w - z) ^ r) (r * a / (w - z) ^ (r + 1)) z := by
  cases' r with r
  · simpa using hasDerivAt_const z a
  convert HasDerivAt.const_div a (.pow (r + 1) (.const_sub w (hasDerivAt_id' z))) ?_ using 1
  · field_simp [hz.symm, sub_eq_zero, mul_assoc, ← pow_add, ← pow_mul, mul_left_comm a,
      show (r + 1) * 2 = r + (r + 1 + 1) by ring]
  · simp [hz.symm, sub_eq_zero]
```
But if people like these proofs better then I could change to it.

**Comment by erdOne** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/25803

File: Mathlib/Analysis/SpecificLimits/InvPow.lean (hunk 3 above)
Comment (erdOne) [reply Mathlib/Analysis/SpecificLimits/InvPow.lean:24]: It is really painful to use the hasderiv result to prove `deriv_div_sub_pow` because the latter is true when `z = w` because of non-differentiability and hasderiv doesn't give you that. If you can find a shorter proof by switching the two lemmas then I am happy to modify it but I cannot produce one.
